US03980089
Preparation of N-(γ-Methylthiopropyl)pyrrole
A mixture of 25 g (0.36 mole) 3-(methylthio)-propylamine and 43 g (0.36 mole) 2,5-dimethoxytetrahydrofuran is placed in a 1-liter 3-neck flask equipped with a stirrer, addition funnel, thermometer and condenser, and 200 ml glacial acetic acid is added dropwise with stirring while maintaining the temperature below 20°C. The reaction mixture is refluxed for 30 minutes and, after cooling, it is made basic (pH 9-10) by the addition of 375 ml 30% aqueous sodium hydroxide and steam-distilled for 3 hours.

reactant | 3-(methylthio)-propylamine | 0.36 mole, 25 g | CSCCCN | C4H11NS
reactant | 2,5-dimethoxytetrahydrofuran | 0.36 mole, 43 g | COC1OC(CC1)OC | C6H12O3
reactant | sodium hydroxide | 375 ml | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-(γ-Methylthiopropyl)pyrrole | CSCCCN1C=CC=C1 | C8H13NS
